US07405300B2
2-Chloro-1-(3-ethoxyphenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-(3-ethoxyphenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde (37% yield) as a light yellow solid. ESI/MS 350 (M+H); RT 2.69 min; NMR (CDCl3) 10.26 (1H, s); 8.26 (1H, d, J=6 Hz); 7.28 (3H, m); 7.21 (3H, m); 6.95 (1H, d, J=9 Hz); 4.15 (2H, q); 3.29 (4H, m); 2.79 (4H, m); 1.49 (3H, t).

reactant | 2-Chloro-1-(3-ethoxyphenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)OCC | C17H14ClNO2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(3-ethoxyphenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde | 37% yield | C(C)OC=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | C21H23N3O2
